US04443462
When in the procedure of Example 7, 4-(5-fluoro-1-naphthalenyloxy)-1-ethylpiperidine is substituted for 4-(2-naphthalenyloxy)-1-(phenylmethyl)piperidine, 4-(5-fluoro-1-naphthalenyloxy)piperidine is produced.

reactant | 4-(5-fluoro-1-naphthalenyloxy)-1-ethylpiperidine | FC1=C2C=CC=C(C2=CC=C1)OC1CCN(CC1)CC | C17H20FNO
reactant | 4-(2-naphthalenyloxy)-1-(phenylmethyl)piperidine | C1=C(C=CC2=CC=CC=C12)OC1CCN(CC1)CC1=CC=CC=C1 | C22H23NO
product | 4-(5-fluoro-1-naphthalenyloxy)piperidine | FC1=C2C=CC=C(C2=CC=C1)OC1CCNCC1 | C15H16FNO
